US07521446B2
cis-N,N-Dibenzyl-N-{4-[(2-piperidylethoxy) methyl]cyclohexyl}amine
cis-{4-[N,N-Dibenzylamino]cyclohexyl}methan-1-ol (2.851 g, 9.21 mmol) and (2-chloroethyl)piperidine hydrochloride were suspended in 50 mL of dioxane. Potassium hydride (3.16 g, 35% by weight in mineral oil) was added dropwise in suspension in 20 mL of dioxane. The reaction mixture was stirred at room temperature for about 1 hour. The reaction mixture was then warmed to about 70° C. and one equivalent of potassium hydride (1.05 g, 35% by weight in mineral oil) was added dropwise. The temperature was maintained for about 2 hours, after which the conversion was complete. The reaction was cooled to room temperature and quenched with methanol. Solvents were removed under reduced pressure. Acetonitrile was added (200 mL) and the gray brown solid was removed by filtration. The crude was purified by column chromatography on silica gel using 3% (ethanol/ammonium hydroxide=8:1) in dichloromethane. The product was isolated as an orange oil that solidified under vacuum. (2.84 g, 72% yield): ES-MS (m/z) 421.

reactant | cis-{4-[N,N-Dibenzylamino]cyclohexyl}methan-1-ol | 9.21 mmol, 2.851 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@H]1CC[C@H](CC1)CO | C21H27NO
reactant | (2-chloroethyl)piperidine hydrochloride | Cl.ClCCN1CCCCC1
reactant | Potassium hydride | 3.16 g | [H-].[K+]
reactant | potassium hydride | 1.05 g, one equivalent | [H-].[K+]
reactant | dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | cis-N,N-Dibenzyl-N-{4-[(2-piperidylethoxy) methyl]cyclohexyl}amine | 72% yield | C(C1=CC=CC=C1)N([C@@H]1CC[C@@H](CC1)COCCC1NCCCC1)CC1=CC=CC=C1 | C28H40N2O
